US08030500B2
4-Fluoro-1-(4-fluoro-3-(pyrimidin-5-yl)phenyl)-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine
1-(3-Bromo-4-fluorophenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine (0.30 g, 0.64 mmol) and 5-pyrimidinylboronic acid (0.104 g, 0.84 mmol) in DMF (5.00 mL) was heated to 90° C. under argon atmosphere. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (0.039 g, 0.05 mmol) and aqueous potassium carbonate (2.00 M) (0.961 mL, 1.92 mmol) were added and the resulting mixture was stirred at 90° C. for 1 h. The reaction mixture was cooled to room temperature, and then filtered through a syringe filter and purified by preparative HPLC to give the title compound (0.158 g, 51% yield).

reactant | 1-(3-Bromo-4-fluorophenyl)-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 0.64 mmol, 0.30 g | BrC=1C=C(C=CC1F)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C(F)(F)F | C20H11BrF5N3
reactant | 5-pyrimidinylboronic acid | 0.84 mmol, 0.104 g | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | potassium carbonate | 1.92 mmol, 2.00 M, 0.961 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5.00 mL | CN(C)C=O | C3H7NO
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.05 mmol, 0.039 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-Fluoro-1-(4-fluoro-3-(pyrimidin-5-yl)phenyl)-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 0.158 g, 51% yield | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=NC=C1)C(F)(F)F)C1=CC(=C(C=C1)F)C=1C=NC=NC1)N | C24H14F5N5
